US04379765
3-(2-benzoyl-4-chlorophenyl)-2-propenenitrile
A mixture of 50.9 g (0.168 mole) of α,4-dichloro-2-(benzoyl)-benzenepropanenitrile, 17 g (0.14 mole) of potassium carbonate, 50.9 g (0.5 mole) of potassium bicarbonate and 510 ml of dimethyl sulfoxide was stirred at room temperature for 48 hr. The mixture was diluted with 1.5 l of water, and the resulting percipitate was collected by filtration. Recrystallization from a mixture of methylene chloride and ether gave off-white prisms, mp 89°-91°.

reactant | α,4-dichloro-2-(benzoyl)-benzenepropanenitrile | 0.168 mole, 50.9 g | ClC(C#N)CC1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O | C16H11Cl2NO
reactant | potassium carbonate | 0.14 mole, 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium bicarbonate | 0.5 mole, 50.9 g | C([O-])(O)=O.[K+]
reactant | dimethyl sulfoxide | 510 ml | CS(=O)C | C2H6OS
solvent | water | 1.5 l | O | H2O
product | 3-(2-benzoyl-4-chlorophenyl)-2-propenenitrile | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)C=CC#N | C16H10ClNO
